US05869501
t-Butyl N-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]carbamate obtained in Reference Example 42 (172 mg) was dissolved in 0.7 ml of tetrahydrofuran, 139 mg of triphenylphosphine, 32 μl of methanol and 83 μl of diethyl azodicarboxylate was added to the solution at 0° C., and then the mixture was stirred at room temperature for 40 minutes. The reaction solution was evaporated, and the resulting residue was purified by silica gel column chromatography using hexane:ethyl acetate (85:15) as the eluent to give 153 mg of t-butyl N-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]-N-methylcarbamate.

reactant | t-Butyl N-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]carbamate | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(S(=O)(=O)NC(OC(C)(C)C)=O)CC1=CC2=CC(=CC=C2C=C1)C#N | C33H40N4O7S
reactant | triphenylphosphine | 139 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 32 μl | CO | CH4O
reactant | diethyl azodicarboxylate | 83 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 0.7 ml | O1CCCC1 | C4H8O
product | t-butyl N-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]-N-methylcarbamate | 153 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(S(=O)(=O)N(C(OC(C)(C)C)=O)C)CC1=CC2=CC(=CC=C2C=C1)C#N | C34H42N4O7S
